Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Opioids - Morphine Analogues / gabapentin
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old right-handed woman with a history 
of
hyperlipidemia, anxiety, cervical radiculopathy s/p ACDF C3-5,
CIDP on prednisone and IVIg who presents with acute on chronic
worsening of her generalized weakness. This past week, Ms
___ discussed a change to her IVIg regimen with Dr.
___, planning on changing the infusions from monthly to
weekly starting this next week. Unfortunately, over the past 2
days, Ms ___ grew progressively weaker and more lethargic,
and was unable to walk short distances throughout her house
without sitting and resting, and couldn't lift her arms over her
head even to get dressed. She says her breathing has not 
bothered
her, that her lethargy is more in her legs and muscles and not 
in
her chest/lungs. She also noted a recent fall at the bottom of
her staircase where her legs buckled and she fell down on to her
bottom and rested until she could walk again. She discussed her
symptoms on the phone with a member of the neurology team who
recommended she present to the ED.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal numbness,
parasthesiae. No bowel or bladder incontinence or retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
-Anxiety, depression
-Hyperlipidemia
-Cervical radiculopathy
-AIDP
 
Social History:
___
Family History:
Father had MI at age ___.  Mom had diabetes and MI at age ___.
 
Physical Exam:
Admission Physical Exam:
Vitals: T98.3, HR83 BP 141/62, RR18
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air, able to count out
loud to 22 in one breath
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   Gastroc 
L  4-   ___   5    ___-    5    5   5      5    
R  4    4+  ___    ___-    5    5   5      5    

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    2   0
R  1  1    1    1   0

Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge Physical Exam
Physical Exam:
___ 1645 Temp: 98.2 PO BP: 123/79 R Lying HR: 79 RR: 18 O2
sat: 93% O2 delivery: Ra 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air, able to count out
loud to 22 in one breath
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri Br WrE FFl  FE     IP   Quad  Ham  TA  Gastroc 
L  2    5-  ___   5    5      4     5     4   4      5    
R  4-   ___   5   5    5      4     5     4   4      5    

Neck flexion ___

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS

-DTRs:
  Bi Tri ___ Pat Ach
L  0  0    0    3   0
R  0  0    1    1   0

Left suprapatellar reflex positive
Plantar response was flexor on right, extensor on left.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
 
Pertinent Results:
___ 06:48AM   GLUCOSE-81 UREA N-12 CREAT-0.7 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-26 ANION GAP-11
___ 06:48AM   CALCIUM-9.3 PHOSPHATE-4.7* MAGNESIUM-2.3
___ 06:48AM   WBC-5.6 RBC-4.47 HGB-14.3 HCT-43.2 MCV-97 
MCH-32.0 MCHC-33.1 RDW-13.3 RDWSD-47.3*
___ 06:48AM   PLT COUNT-219
___ 04:35PM   NA+-140 K+-4.0
___ 04:30PM   GLUCOSE-92 UREA N-12 CREAT-0.6 SODIUM-143 
POTASSIUM-4.5 CHLORIDE-108 TOTAL CO2-22 ANION GAP-13
___ 04:30PM   estGFR-Using this
___ 04:30PM   CALCIUM-9.2 PHOSPHATE-4.1 MAGNESIUM-2.2
___ 04:30PM   WBC-5.3 RBC-4.30 HGB-13.8 HCT-40.7 MCV-95 
MCH-32.1* MCHC-33.9 RDW-13.2 RDWSD-46.1
___ 04:30PM   NEUTS-66.5 ___ MONOS-5.7 EOS-0.2* 
BASOS-0.6 AbsNeut-3.52 AbsLymp-1.43 AbsMono-0.30 AbsEos-0.01* 
AbsBaso-0.03
___ 04:30PM   PLT COUNT-207
___ 04:10PM URINE  HOURS-RANDOM
___ 04:10PM URINE  UHOLD-HOLD
___ 04:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of CIDP
on prednisone 5mg and IVIg q1m, cervical radiculopathy s/p ACDF
C3-5, anxiety on duloxetine and buspirone who presented with
worsening acute on chronic weakness, consistent with CIDP flare. 
We started her on IVIg 2g/kg total, divided over 3 days. We 
consulted our neuromuscular team, who recommended increasing 
Prednisone to 60 with side effect coverage, and starting 
Cellcept at 500mg BID, as well as a number of other laboratory 
studies. We continued her anxiety and hyperlipidemia medications 
without change.

Transitional Issues
- cellcept regimen
- prednisone regimen
- TPMT result
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 5 mg PO BID 
2. DULoxetine 90 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Vitamin D ___ UNIT PO DAILY 
5. PredniSONE 5 mg PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO BID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*5 
2.  Mycophenolate Mofetil 500 mg PO BID 
RX *mycophenolate mofetil [CellCept] 500 mg 1 capsule(s) by 
mouth twice a day Disp #*60 Tablet Refills:*6 
3.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*6 
4.  PredniSONE 60 mg PO QAM 
RX *prednisone 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*6 
5.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 capsule(s) by mouth 
once a day Disp #*30 Tablet Refills:*6 
6.  BusPIRone 5 mg PO BID  
7.  DULoxetine 90 mg PO DAILY  
8.  Simvastatin 40 mg PO QPM  
9.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CIDP flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of proximal muscle 
weakness resulting from CIDP. While you were hospitalized, we 
consulted our neuromuscular team, who recommended increasing 
your prednisone from 5mg to 60mg with medications to protect 
against the prednisone's side effects (omeprazole, calcium, 
vitamin D), as well as starting cellcept at 500mg twice a day. 

We are changing your medications as follows:
INCREASE Prednisone to 60mg by mouth daily
START Cellcept 500mg by mouth twice daily
START Omeprazole 40mg by mouth daily while you are taking the 
higher dose of Prednisone
START Calcium carbonate 500mg twice daily while you are taking 
the higher dose of Prednisone
START Vitamin D 1000U by mouth daily while you are taking the 
higher dose of Prednisone

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911):
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure taking care of you!

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___